* source TP2
V_V3         E 0 DC 0Vdc AC 2.5Vac 
R_R1         S 0  10k  
E_LAPLACE2         S 0 LAPLACE {V(S1)} {(1)/(1 + (s/6283.18)*0.7653 +
+  (s/6283.18)**2)}
E_LAPLACE1         S1 0 LAPLACE {V(E)} {(0.999)/(1 + (s/6283.18)*1.8478 +
+  (s/6283.18)**2)}
